US08232283B2
NaH (288 mmol) was suspended in DMF (370 mL) at 0° C. under an atmosphere of nitrogen. Dimethyl malonate (261 mmol) in DMF (30 mL) was added dropwise over a period of 20 min. at 0° C. and stirring was continued at 0° C. for 30 min. Then 1,2-dichloro-4-nitrobenzene (130 mmol) in DMF (35 mL) was added dropwise at 0° C. over a period of 20 min. The mixture was stirred at 70° C. for 15 h. The reaction mixture was cooled to room temperature and quenched with NH4Cl. The solution was successively washed with EtOAc (1×100 mL, 1×250 mL) and water (2×150 mL). To facilitate separation of the layers, sat. aq. NaCl (20 mL) was added. The organic layer was separated and washed with sat. aq. NaCl (2×100 mL). The aqueous layer was backextracted with EtOAc (2×50 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude material was recrystallized from EtOH to give dimethyl 2-(2-chloro-4-nitrophenyl)malonate as a solid (74%).

reactant | NaH | 288 mmol | [H-].[Na+]
reactant | Dimethyl malonate | 261 mmol | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 1,2-dichloro-4-nitrobenzene | 130 mmol | ClC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C6H3Cl2NO2
solvent | DMF | 370 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | dimethyl 2-(2-chloro-4-nitrophenyl)malonate | 74% | ClC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OC)C(=O)OC | C11H10ClNO6
